US07247646B2
G. 7-Methoxy-6-methyl-4-(4-(2-pyrrolidin-1-yl-ethoxy)-benzyl)-3-(4-trifluoromethyl-phenyl)-chromen-2-one
A mixture of 4-(4-hydroxybenzyl)-7-methoxy-6-methyl-3-(4-trifluoromethyl-phenyl)-chromen-2-one (50 mg, 0.113 mmol), K2CO3 (48 mg, 0.35 mmol) and 1-(2-chloroethyl)pyrrolidine.HCl (24 mg, 0.14 mmol) in EtOH (1 mL) containing water (100 μL) was stirred at 55° C. for 5 h. The mixture was cooled to room temperature and was poured into CH2Cl2—H2O. The layers were separated and the aqueous phase was extracted with CH2Cl2 (3×). The combined organic layers were dried (MgSO4) and the solvent was removed in vacuo. The residue was purified using flash chromatography (silica gel, 40:1 CH2Cl2:MeOH) to provide the title compound as a beige solid (37 mg, 61%). MS (ESI) m/z 537.9 (M+H)+; HPLC tR 5.22 min.

reactant | 4-(4-hydroxybenzyl)-7-methoxy-6-methyl-3-(4-trifluoromethyl-phenyl)-chromen-2-one | 0.113 mmol, 50 mg | OC1=CC=C(CC2=C(C(OC3=CC(=C(C=C23)C)OC)=O)C2=CC=C(C=C2)C(F)(F)F)C=C1 | C25H19F3O4
reactant | K2CO3 | 0.35 mmol, 48 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-(2-chloroethyl)pyrrolidine.HCl | 0.14 mmol, 24 mg | C1CCN(C1)CCCl.Cl
reactant | water | 100 μL | O | H2O
solvent | EtOH | 1 mL | CCO | C2H6O
solvent | CH2Cl2—H2O | C(Cl)Cl.O
product | 7-Methoxy-6-methyl-4-(4-(2-pyrrolidin-1-yl-ethoxy)-benzyl)-3-(4-trifluoromethyl-phenyl)-chromen-2-one | 37 mg, 61% | COC1=C(C=C2C(=C(C(OC2=C1)=O)C1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)OCCN1CCCC1)C | C31H30F3NO4
